US07371743B2
(a) 3-chloro-4-(2-hydroxy-1-methyl-ethylamino)-benzonitrile
4.00 g (25.7 mmol) 3-chloro-4-fluoro-benzonitrile are heated to 60° C. in 20 ml DMSO with 8.00 g (106.5 mmol) 2-amino-1-propanol with stirring for 2 hours. Then the reaction mixture is poured into water and extracted with ethyl acetate. The combined organic phases are washed with water and sat. sodium chloride solution, dried over sodium sulphate and evaporated down i. vac.

reactant | 3-chloro-4-fluoro-benzonitrile | 25.7 mmol, 4.00 g | ClC=1C=C(C#N)C=CC1F | C7H3ClFN
reactant | 2-amino-1-propanol | 106.5 mmol, 8.00 g | NC(CO)C | C3H9NO
reactant | water | O | H2O
solvent | DMSO | 20 ml | CS(=O)C | C2H6OS
product | 3-chloro-4-(2-hydroxy-1-methyl-ethylamino)-benzonitrile | ClC=1C=C(C#N)C=CC1NC(CO)C | C10H11ClN2O
